US08232278B2
Synthesis of 4-[2-(N,N-dimethylamino)ethoxy]-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine
was synthesized from 4-chloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine and 2-(N,N-dimethylamino)ethanol/NaH, in 20% yield, using the procedure described for the synthesis of 4-phenoxy-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine. The mass spectrum characterising data was as follows: MS (m/z): 313 ([M+H]+, 100).

reactant | 4-chloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)C2=CC=C(C=C2)F | C13H7ClFN3
reactant | 2-(N,N-dimethylamino)ethanol NaH | CN(C)CCO.[H-].[Na+]
reactant | 4-phenoxy-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | O(C1=CC=CC=C1)C=1C2=C(N=CN1)C=CC(=N2)C2=CC=C(C=C2)F | C19H12FN3O
product | 4-[2-(N,N-dimethylamino)ethoxy]-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 20% yield | CN(C)CCOC=1C2=C(N=CN1)C=CC(=N2)C2=CC=C(C=C2)F | C17H17FN4O
